US07381737B2
A mixture of 3-(3,5-dichlorophenyl)-1-methylimidazolidine-2,4-dione (1.00 kg, 3.86 mol), 4-cyanobenzaldehyde (0.70 kg, 5.79 mol) and pyrrolidone (0.27 kg, 3.86 mmol) was refluxed in EtOH (13.00 L) for 20-24 hours at a temperature of 78° C. The completeness of the reaction was followed by HPLC. Upon reaction completion, the suspension was cooled to 65° C. and THF (4.33 L) was added in 5-10 minutes. The suspension was cooled to 20-25° C. in 3-4 hours and was then filtered. The filter cake was washed with EtOH (4×2.00 L) and dried at maximum 40° C. to a constant weight. (E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile (1.24 kg, 86%) was obtained as a fluffy, yellowish crystalline solid. mp=239-241° C. 1H NMR (DMSO-d6): 8.07 (2H, d, J=8.3 Hz), 7.86 (2H, d, J=8.4 Hz), 7.72 (1H, m), 7.59 (2H, m), 6.72 (1H, s), 3.35 (3H, s). 13C NMR (DMSO-d6): 14 Carbons (159.80, 151.48, 137.64, 133.83, 133.70, 131.80, 130.80, 130.68, 127.71, 125.51, 118.83, 114.48, 110.32, 26.72). Anal. Calcd for C18H11Cl2N3O2: C, 58.08; H, 2.97; N, 11.29; Cl, 19.05. Found: C, 58.14; H, 2.72; N, 11.14; Cl, 19.15.

reactant | 3-(3,5-dichlorophenyl)-1-methylimidazolidine-2,4-dione | 3.86 mol, 1.00 kg | ClC=1C=C(C=C(C1)Cl)N1C(N(CC1=O)C)=O | C10H8Cl2N2O2
reactant | 4-cyanobenzaldehyde | 5.79 mol, 0.70 kg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | pyrrolidone | 3.86 mmol, 0.27 kg | N1C(CCC1)=O | C4H7NO
reactant | THF | 4.33 L | C1CCOC1 | C4H8O
solvent | EtOH | 13.00 L | CCO | C2H6O
product | (E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile | 1.24 kg, 86% | ClC=1C=C(C=C(C1)Cl)N1C(N(\C(\C1=O)=C\C1=CC=C(C#N)C=C1)C)=O | C18H11Cl2N3O2
